US04988695
(b) 3-(2-Chloroethyl)-8-methyl-4-oxo-(1H)-cinnoline.
To a solution of 1-(2-amino-3-methylphenyl)-4-chlorobutan-1-one hydrochloride (20 g, 0.081 Mol) and concentrated hydrochloric acid (1000 ml) at 0° was added dropwise a solution of sodium nitrite (6.07 g, 0.088 mol) in water (50 ml) maintaining the temperature below 5°. The reaction mixture was stirred at room temperature for 20 hours. The solvent was evaporated under reduced pressure to give a solid. The solid was washed with sodium acetate solution and collected by filtration and dried, 13.5 g. Recrystallization from methanol gave the title compound, m.p. 222-225°

reactant | 1-(2-amino-3-methylphenyl)-4-chlorobutan-1-one hydrochloride | 0.081 Mol, 20 g | Cl.NC1=C(C=CC=C1C)C(CCCCl)=O
reactant | hydrochloric acid | 1000 ml | Cl | ClH
reactant | sodium nitrite | 0.088 mol, 6.07 g | N(=O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
product | 3-(2-Chloroethyl)-8-methyl-4-oxo-(1H)-cinnoline | ClCCC1=NNC2=C(C=CC=C2C1=O)C | C11H11ClN2O
